US05658902
Step 3: Preparation of (1-ethyl-piperidin-3-yl)-(6-iodo-2-trichloromethyl-quinazolin-4-yl)-amine, monohydrochloride
6-iodo-4-chloro-2-trichloromethyl-quinazolin (8.14 g, 20 mmol) was dissolved in ether (anhydrous 200 mL) under stirring at rt. To this solution 3-amino-1-ethyl-piperidine (2.56 g, 20 mmol) in ether (anhydrous 30 mL) was added at 0° C. The reaction mixture was allowed to warm to rt overnight. Buff colored solid separated which was filtered, washed with ether (200 mL) and air dried. Crude yield: 5.1 g. The crude material was suspended in MeOH and stirred vigorously for 0.5 h and filtered. The solid was dried in vacuo (0.01 mm). Yield: 3.72 g, (34.7%). Mp 265°-266° C.

reactant | 6-iodo-4-chloro-2-trichloromethyl-quinazolin | 20 mmol, 8.14 g | IC=1C=C2C(=NC(=NC2=CC1)C(Cl)(Cl)Cl)Cl | C9H3Cl4IN2
reactant | 3-amino-1-ethyl-piperidine | 20 mmol, 2.56 g | NC1CN(CCC1)CC | C7H16N2
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
product | (1-ethyl-piperidin-3-yl)-(6-iodo-2-trichloromethyl-quinazolin-4-yl)-amine, monohydrochloride | Cl.C(C)N1CC(CCC1)NC1=NC(=NC2=CC=C(C=C12)I)C(Cl)(Cl)Cl | InChI=1S/C16H18Cl3IN4.ClH/c1-2-24-7-3-4-11(9-24)21-14-12-8-10(20)5-6-13(12)22-15(23-14)16(17,18)19;/h5-6,8,11H,2-4,7,9H2,1H3,(H,21,22,23);1H
